Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],0.0837015756497
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.62476153543
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10].[O:11]=[C:12]([H:13])[H:14],-1.84168215
[O:1][C@:2]([O:3][H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:3][H:4],2.13687742963
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.05215545618
[C:1]#[C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.5587085347999998
[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.98644639742
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13],-2.7768490269200004
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3],1.33632825667
[H:1][C:2][C:4]([H:5])([H:6])[H:7].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[H:7],-5.28970083644
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])[H:12],-1.10111552798
[H:1][C:2][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.73135311366
[C:9]([H:10])(=[C:11]([H:12])[H:13])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:14][H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.7783872217400003
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5](=[C:6]([H:7])[H:8])[H:10].[H:1][O:2][C:3]([H:4])=[C:9]=[C:11]([H:12])[H:13],2.5244006121
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]1[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12],-2.3891719258099995
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:3][H:4],6.2899084706
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][H:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.59291381475
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11],4.02317566748
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]1=[C:11]([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])=[C:13]([H:14])[H:15],1.50827966779
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:7].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6])[C:8]([H:9])=[C:10]([H:11])[H:12],4.590596281730001
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.98059998515
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:10]([H:11])=[C:12]([H:13])[H:14].[H:9],5.05504710584
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[H:12].[H:1][O:2]/[C:3]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],2.43674077566
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7](=[O:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8])([H:9])[H:10],-1.4586169638600002
[C:1].[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-3.87877246548
[H:10].[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]#[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12],-1.92887338294
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]#[C:4][H:5],1.66475875097
